US05095038
h. 4-[7-(2-Ethylbutylcarbamoyl)naphth-1-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide
A mixture of 4-[7-(2-ethylbutylcarbamoyl)naphth-1-ylmethyl]-3-methoxybenzoic acid (189 mg), 4-dimethylaminopyridine (110 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (172 mg), and o-toluenesulfonamide (96 mg) in methylene chloride (2 ml) was stirred for 18 h. Methylene chloride (25 ml) was added, and the solution was washed (1N hydrochloric acid, brine), dried (MgSO4) and evaporated. The residue was recrystallized from 21 ml of 1:0.5:1 methylene chloride:methanol:hexane, ground to a powder and vacuum dried at 100° C. to give the title compound (179 mg, 70%) as a colorless solid; mp 126.0°-128.0° C.

reactant | 4-[7-(2-ethylbutylcarbamoyl)naphth-1-ylmethyl]-3-methoxybenzoic acid | 189 mg | C(C)C(CNC(=O)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)O)C=C1)OC)CC | C26H29NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 172 mg | Cl.CN(CCCN=C=NCC)C
reactant | o-toluenesulfonamide | 96 mg | C=1(C(=CC=CC1)S(=O)(=O)N)C | C7H9NO2S
catalyst | 4-dimethylaminopyridine | 110 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-[7-(2-Ethylbutylcarbamoyl)naphth-1-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide | 179 mg, 70% | C(C)C(CNC(=O)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC)CC | C33H36N2O5S
